US05620979
3.335 g (14.5 mmol) of 6,7-dichloro-1,4-dihydroquinoxaline-2,3-dione was dissolved in 65 mL of cone. H2SO4 with stirring and cooling in an ice-H2O bath, then 2.20 g (21.76 mmol) of KNO3 (Baker, used as received) was added in portions over 10 min. with stirring. The resulting mixture was stirred at 22° C. under N2 for 20 h. then was slowly poured into ice-H2O (400 mL) with stirring. The precipitate was collected on a sintered funnel by vacuum filtration, washed with H2O (5×10 mL), and dried at 60° C. under 0.1 mmHg for 12 h affording 3.39 g (85%) of the crude 6,7-dichloro-5-nitro-1,4-dihydroquinoxaline-2,3-dione as a grey-yellow powder. Purity: >98.5% based on HPLC analysis.

reactant | 6,7-dichloro-1,4-dihydroquinoxaline-2,3-dione | 14.5 mmol, 3.335 g | ClC=1C=C2NC(C(NC2=CC1Cl)=O)=O | C8H4Cl2N2O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | KNO3 | 21.76 mmol, 2.20 g | [N+](=O)([O-])[O-].[K+]
product | 6,7-dichloro-5-nitro-1,4-dihydroquinoxaline-2,3-dione | 3.39 g, 85% | ClC=1C(=C2NC(C(NC2=CC1Cl)=O)=O)[N+](=O)[O-] | C8H3Cl2N3O4
